US08877975B2
Synthesis of 3-Aminomethyl-3-(3,4-dichloro-phenyl)-1-methyl-cyclohexanol (193)
The title compound was synthesized from 1-(3,4-dichlorophenyl)-3-oxo-cyclohexanecarbonitrile (1.0 g, 3.7 mmol) according to General Procedure Y, followed by General Procedure E (Scheme 31). The crude product was dissolved in MeOH (4 ML) and subjected to reverse phase column chromatography (CH3CN/H2O/0.1% formic acid=5% to 100%) to give (±) 3-aminomethyl-3-(3,4-dichloro-phenyl)-1-methyl-cyclohexanol (0.57 g, 81%).

reactant | 1-(3,4-dichlorophenyl)-3-oxo-cyclohexanecarbonitrile | 3.7 mmol, 1.0 g | ClC=1C=C(C=CC1Cl)C1(CC(CCC1)=O)C#N | C13H11Cl2NO
reactant | CH3CN H2O | CC#N.O
solvent | MeOH | CO | CH4O
product | (±) 3-aminomethyl-3-(3,4-dichloro-phenyl)-1-methyl-cyclohexanol | 0.57 g, 81% | NCC1(CC(CCC1)(O)C)C1=CC(=C(C=C1)Cl)Cl | C14H19Cl2NO
